US08017611B2
2-[3-[5-amino-6-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-yl]phenyl]acetic acid
A mixture of 2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid (85 mg), 5-bromo-3-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine (100 mg) in toluene-dioxane (1 ml-1.5 ml) and 2M aqueous sodium carbonate (5 ml) was degassed. Pd(dppf)Cl2 (24 mg) was added. The resulting mixture was heated to 85° C. for 6 hours. 1-Butanol (5 ml) was added to the mixture and the mixture was washed with brine (3×5 ml). The resulting organic layer was concentrated and purified by chromatography on silica gel eluting with a gradient of methanol in ethyl acetate to give the title compound (15 mg) as a solid. NMR Spectrum: (DMSOd6, 400 MHz) 7.25 (m, 2H), 7.30 (m, 1H), 7.40 (m, 1H), 7.90 (m, 6H), 8.80 (s, 1H); Mass spectrum: M+H+ 365.

reactant | 2-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetic acid | 85 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)CC(=O)O)C | C14H19BO4
reactant | 5-bromo-3-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine | 100 mg | BrC=1N=C(C(=NC1)N)C=1OC2=C(N1)C=CC(=C2)F | C11H6BrFN4O
solvent | toluene dioxane | 1 ml-1.5 ml | C1(=CC=CC=C1)C.O1CCOCC1
solvent | sodium carbonate | 2M, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
product | 2-[3-[5-amino-6-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-yl]phenyl]acetic acid | 15 mg | NC=1N=CC(=NC1C=1OC2=C(N1)C=CC(=C2)F)C=2C=C(C=CC2)CC(=O)O | C19H13FN4O3
